US04195033
4-Bromo-3,3-dimethyl-6,6,6-trichlorohexanoic acid (0.8 g.) was added to a stirred solution of sodium (0.2 g.) in dry ethyl alcohol (25 ml.) at the ambient temperature, and the mixture refluxed for 1 hour, during which time a white precipitate was formed. The ethyl alcohol was removed by evaporation under reduced pressure and residual material partitioned between chloroform (10 ml.) and water (25 ml.). The aqueous phase was separated, acidified with concentrated hydrochloric acid to pH 1, and extracted with petroleum ether (boiling range 40° to 60° C., 3×15 ml). The combined petroleum ether extracts were washed with water (10 ml.), dried over anhydrous sodium sulphate, and concentrated by evaporation of the solvent under reduced pressure. The residual oil was purified by preparative thin layer chromatography using silica on glass plates with a methanol (20% by volume) and chloroform (80% by volume) mixture as eluent. 5(2,2-Dichlorovinyl)-4,4-dimethyl-2-oxotetrahydrofuran was obtained as a colourless oil having an Rf ca. 0.8 in the above t.l.c. system, and characterised by mass spectroscopic and infra-red spectral examination (m/e 208).

reactant | 4-Bromo-3,3-dimethyl-6,6,6-trichlorohexanoic acid | 0.8 g | BrC(C(CC(=O)O)(C)C)CC(Cl)(Cl)Cl | C8H12BrCl3O2
reactant | sodium | 0.2 g | [Na] | Na
solvent | ethyl alcohol | 25 ml | C(C)O | C2H6O
product | 5(2,2-Dichlorovinyl)-4,4-dimethyl-2-oxotetrahydrofuran | ClC(=CC1C(CC(O1)=O)(C)C)Cl | C8H10Cl2O2
